US05434289
0.5 ml (0.1 mmol) of (R)-1 solution prepared in the same manner as in Example 1 were cooled to 0° C., and 190 mg (1 mmol) of (E)-1-ethylthio-1-trimethylsilyloxy-1-propene (77% E) and subsequently 130 mg (1 mmol) of freshly distilled butyl glyoxylate and 0.5 ml of toluene were added thereto, followed by allowing the mixture to react at 0° C. for 0.5 hour. The resulting mixture was poured into 10% hydrochloric acid-methanol cooled at 0° C. The solution was filtered through a pad of Celite, and the filtrate was extracted three times with a 5 ml portion of diethyl ether. The combined organic layer was washed with a saturated sodium chloride aqueous solution, dried over magnesium sulfate and evaporated under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=15/1 by volume) to obtain 158 mg (yield 64%) of n-butyl 4-ethylthio-2-hydroxy-3-methyl-4-oxobutyrate.

reactant | (E)-1-ethylthio-1-trimethylsilyloxy-1-propene | 1 mmol, 190 mg | C(C)S\C(=C\C)\O[Si](C)(C)C | C8H18OSSi
reactant | butyl glyoxylate | C(C=O)(=O)OCCCC | C6H10O3
reactant | hydrochloric acid methanol | Cl.CO
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
product | n-butyl 4-ethylthio-2-hydroxy-3-methyl-4-oxobutyrate | 158 mg, yield 64% | C(C)SC(C(C(C(=O)OCCCC)O)C)=O | C11H20O4S
